US04921855
A solution of benzyl 2(S)-[N-(2-morpholinocarbonyl-ethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate (726 mg) in methanol (150 ml) and water (10 ml) was hydrogenated over 10% palladium on carbon (80 mg) at 3 atmospheric pressure of hydrogen for 1 hour. The solution was filtered and concentrated in vacuo to give 2(S)-[N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionic acid (573 mg).

reactant | benzyl 2(S)-[N-(2-morpholinocarbonyl-ethyl)-N-methylaminocarbonyloxy]-3-phenylpropionate | 726 mg | O1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | 2(S)-[N-(2-morpholinocarbonylethyl)-N-methylaminocarbonyloxy]-3-phenylpropionic acid | 573 mg | O1CCN(CC1)C(=O)CCN(C)C(=O)O[C@H](C(=O)O)CC1=CC=CC=C1 | C18H24N2O6
